US06864396B2
A solution of 116.5 grams of 3,5,5-Trimethylhexanoylbenzene in 1500 mL of tetrahydrofuran with 9.9 grams of 10% palladium on carbon (as a catalyst) was stirred at 23° C. in an atmosphere of hydrogen at 275 kPa for 17 hours. The mixture was filtered through Celite™ diatomaceous earth filter agent to remove the catalyst. The filtrate was concentrated in vacuo to give 3,5,5-trimethylhexylbenzene.

reactant | 3,5,5-Trimethylhexanoylbenzene | 116.5 grams | CC(CC(=O)C1=CC=CC=C1)CC(C)(C)C | C15H22O
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 1500 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 9.9 grams | [Pd] | Pd
product | 3,5,5-trimethylhexylbenzene | CC(CCC1=CC=CC=C1)CC(C)(C)C | C15H24
